US05118534
Synthesis of 2-(decylthio)ethanamine hydrochloride
Approximately 225 pounds of decylmercaptan are loaded into a jacketed reactor equipped with an agitator. 1.25 pounds of zinc chloride catalyst are added through the manhole. The system is heated to approximately 140° C. and 130 pounds of 2-ethyl-2-oxazoline are added at the rate of 3 lbs/min in about 45 minutes. About 30 minutes are allowed for the reaction to be completed, the reactor cooled to approximately 120° C. and 155 pounds of 32 weight percent hydrochloric acid are then added to the reaction mixture. The reactor is heated to 150°-160° C., at which time the vapor pressure of the system is approximately 60 psi. The temperature is maintained near 150° C. for 2 hours to complete the hydrolysis.

reactant | decylmercaptan | 225 pounds | C(CCCCCCCCC)S | C10H22S
reactant | 2-ethyl-2-oxazoline | 130 pounds | C(C)C=1OCCN1 | C5H9NO
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc chloride | 1.25 pounds | [Cl-].[Zn+2].[Cl-]
product | 2-(decylthio)ethanamine hydrochloride | Cl.C(CCCCCCCCC)SCCN | InChI=1S/C12H27NS.ClH/c1-2-3-4-5-6-7-8-9-11-14-12-10-13;/h2-13H2,1H3;1H
